US08058300B2
Step 2: 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclobutanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 2, Step 4 using 1-(4-bromo-phenyl)-cyclobutanecarboxylic acid ethyl ester and bis(pinacolato)diboron.

reactant | 1-(4-bromo-phenyl)-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)C1=CC=C(C=C1)Br | C13H15BrO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H27BO4
